US05359068
2,5-Dichloro-4-methyl-nitrobenzene
Prepared by a modification of the method of H. D. Dakin and J. B. Cohen, J. Chem. Soc., 79, 1130 (1901). 2,5-Dichlorotoluene (18.7 g, 0.116 mol) was added in one portion to a 10° C. mixture of concentrated sulfuric acid (24 ml) and glacial acetic acid (10 ml). This was stirred at about 10° C. while a cold mixture of 70% nitric acid (8.2 ml) and concentrated sulfuric acid (8.2 ml) was added dropwise over 10 min. The reaction mixture was warmed slowly to room temperature and stirred for 2 hours. The reaction mixture was then recooled to 10° C. with an ice bath and quenched with ice and methylene chloride. The layers were separated and the aqueous layer extracted with methylene chloride. The combined organic layers were washed two times with water, two times with saturated sodium bicarbonate solution and one time with brine. After drying over magnesium sulfate, the solvent was evaporated in vacuo and the crude product crystallized from isopropanol (30 ml). The yield of light yellow solid was 13.4 g, 56%; NMR (CDCl3) δ 7.91 (s, 1), 7.42 (s, 1), 2.43 (s, 3).

reactant | 2,5-Dichlorotoluene | 0.116 mol, 18.7 g | ClC1=C(C=C(C=C1)Cl)C | C7H6Cl2
reactant | sulfuric acid | 24 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 8.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 8.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2,5-Dichloro-4-methyl-nitrobenzene | ClC1=C(C=C(C(=C1)C)Cl)[N+](=O)[O-] | C7H5Cl2NO2
